US05610299
A mixture of 2-Hydroxymethyl-benzimidazole (11.9 g) and MnO2 (59.5 g) in ethanol (250 mL) was vigorously stirred for 2 days. The reaction was concentrated in vacuo, hot dimethylformamide was added and the mixture was filtered through celite. After removal of the solvent in vacuo the tan solid was triturated with ethanol to afford 2-Benzimidazolecarboxaldehyde as a tan powder.

reactant | 2-Hydroxymethyl-benzimidazole | 11.9 g | OCC=1NC2=C(N1)C=CC=C2 | C8H8N2O
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | MnO2 | 59.5 g | O=[Mn]=O
product | 2-Benzimidazolecarboxaldehyde | N1=C(NC2=C1C=CC=C2)C=O | C8H6N2O
